Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope, Left Shoulder Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with PMHx of hypothyroidism,
who presents with left shoulder pain after a syncopal event.

The patient was in her usual health until the morning of ___,
when she arose from bed. She felt slightly dizzy on standing,
which she says has happened many times before, although she
cannot recall exactly how long this LH on standing has been
occurring. The patient states that she was walking to her 
closet,
and felt dizzy; the next thing she remembers is waking up on the
floor with severe left shoulder pain, as well as mild left knee
pain and a headache. She does not recall the events between
feeling dizzy and waking up on the floor. Her husband was with
her, and states that the interval between these events was about
2 seconds. She believes she may have lost consciousness, but is
unsure. She did hit her head, and is not on any blood thinning
medications. There were no rhythmic jerking movements of the
extremities, and there was no urinary incontinence. She noted
immediate left shoulder pain without numbness, tingling, or
weakness in the left upper extremity. 

Of note, the patient has never syncopized before. She is 
relatively healthy and only has a history of hypothyroidism. 
There is a family history of cardiac death in the patient's 
sister, who died in her ___ postpartum under unclear
circumstances in ___. The family was told it was "due to 
heart
problem," but they are uncertain what this problem is. No other
history of sudden death. 

In the ED:
Initial vital signs were notable for:
T97.8, HR72, BP131/72, RR16, 100% RA, Pain ___

Exam notable for:
Normal cardiac exam, no murmurs. Tenderness to palpation along
the distal third of the clavicle on the left. There is no
tenderness to palpation along the length of the humerus 
including
the head. The humeral head is possibly dislocated anteriorly.

Labs were notable for:
141 | 102 | 14  
----------------< 83    Ca 9.5, Mag 2.0, Phos 3.3 
4.3 | 27  | 0.7

      13.7     
6.3 >------< 176     
      41.7

UA: unremarkable 

Studies performed include:
CLAVICLE LEFT X-RAY: 
No acute fracture seen.

GLENO-HUMERAL SHOULDER X-RAY: 
No acute fracture or dislocation of the left shoulder.

TTE
No structural cardiac cause of syncope identified. Normal
biventricular cavity sizes, regional/global systolic function. 
No
valvular pathology or pathologic flow identified. Normal
estimated pulmonary artery systolic pressure. Normal left
ventricular diastolic function.

EKG: Sinus rhythm 61. Normal PR. QRS duration prolonged at 123.
Normal QTC. No ischemic ST segment deviations or T wave 
inversions to suggest ischemia.  Slurred upstroke of QRS c/f 
delta wave in II, V4-V5.

Repeat EKG: Sinus rhythm 55. Normal PR interval. Normal QTc
interval. PVC is present. There is no concerning ST
segment deviation to suggest ischemia. Slurred upstroke of the
QRS complex is again noted in II, V4-V5.

Patient was given:
- 1L NS
- Ibuprofen 600mg PO
- Acetaminophen 1000mg PO 

Consults: Cardiology 

Vitals on transfer:
T98.5, HR 55, BP 94/61, RR 18, 96% RA

Upon arrival to the floor, patient reportedly feeling very well.
Denied any CP, SOB, palpitations, N/V, weakness, numbness,
sensory deficits, balance issues, dizziness/LH, anxiety/panic
attack sxs. L shoulder pain had significantly improved since
arrival in the ED. 

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative.

 
Past Medical History:
Hypothyroidism
 
Social History:
___
Family History:
Mother (living) - HTN, Chronic Lymphocytic Leukemia, Spinal
Stenosis 
Father (deceased, ___ - Hypothyroidism
Sister (deceased) - sudden death, patient told it was from a
cardiac etiology (unclear), 4 months postpartum 
MGM (deceased, MI, age late ___ - "leaky valve"
 
Physical Exam:
VS: ___ 0004 O2 delivery: 
24 HR Data (last updated ___ @ 004)
    Temp: 98.1 (Tm 98.1), BP: 107/67 (98-113/62-75), HR: 55
(54-63), RR: 18, O2 sat: 99% (98-100), O2 delivery: A, Wt: 141.1
lb/64 kg   
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Tenderness to palpation along the distal third of
the clavicle on the left, and at anterior shoulder. No 
tenderness
to palpation along the length of the humerus. No L knee pain, no
evidence of effusion, and normal ROM. Pulses DP/Radial 2+
bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. Normal finger-to-nose pointing. ___
strength throughout, although somewhat difficult to assess in 
LUE
due to pain. Limited ability to abduct L arm ___ pain. No focal
neurologic defiicts. Normal sensation. AOx3.
 
Pertinent Results:
___ 10:00AM   GLUCOSE-83 UREA N-14 CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-27 ANION GAP-12
___ 10:00AM   WBC-6.3 RBC-4.49 HGB-13.7 HCT-41.7 MCV-93 
MCH-30.5 MCHC-32.9 RDW-12.5 RDWSD-43.1

Left Clavicle XR, Left Shoulder XR
IMPRESSION:  
No acute fracture or dislocation of the left shoulder.  No 
clavicle fracture.

TTE
Conclusion:
The left atrial volume index is mildly increased. There is no 
evidence for an atrial septal defect by 2D/
color Doppler. There is normal left ventricular wall thickness 
with a normal cavity size. There is normal
regional and global left ventricular systolic function. There is 
no resting left ventricular outflow tract
gradient. Tissue Doppler suggests a normal left ventricular 
filling pressure (PCWP less than 12mmHg).
There is normal diastolic function. Normal right ventricular 
cavity size with normal free wall motion.
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. The
aortic arch diameter is normal. There is no evidence for an 
aortic arch coarctation. The aortic valve
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation.
The mitral valve leaflets appear structurally normal with no 
mitral valve prolapse. There is trivial mitral
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial
effusion.

IMPRESSION: No structural cardiac cause of syncope identified. 
Normal biventricular cavity sizes,
regional/global systolic function. No valvular pathology or 
pathologic flow identified. Normal estimated
pulmonary artery systolic pressure. Normal left ventricular 
diastolic function.
 
Brief Hospital Course:
Patient presented to the ED on ___ with a syncopal episode that 
occurred after getting out of bed, walking to her closet, and 
feeling dizzy. She remembers waking up on the
floor with severe left shoulder pain, as well as mild left knee 
pain and a headache. She does not recall the events between 
feeling dizzy and waking up on the floor. Her husband was with 
her, and states that the interval between these events was about
2 seconds. She hit her head and shoulder during her fall.

In the ED, studies performed include CBC, BMP, UA, X-Ray of left 
clavicle and gleno-humeral shoulder, TTE, and 2 EKG's. Labs were 
notable for normal CBC (Hb 14.4), unremarkable chemistry, and 
negative UA. TTE was unremarkable. X-rays showed no fracture or 
dislocation of the left shoulder. 

EKG was notable for sinus rhythm, normal axis, normal intervals, 
no hypertrophy, no signs of ischemia, and slurred upstroke of 
QRS c/f delta wave in II and lateral leads. 

Patient received 1L NS, Ibuprofen 600mg PO, and Acetaminophen 
1000mg PO in the ED. 

On the floor, patient denied any CP, SOB, palpitations, N/V, 
weakness, numbness, sensory deficits, balance issues, 
dizziness/LH, anxiety/panic attack sxs. L shoulder pain had 
significantly improved since arrival in the ED. She reports no 
headache in the morning.

Patient was on continuous telemetry monitoring with no 
arrhythmias seen. Cardiology reviewed data, and agreed with the 
team that the history most closely aligned with orthostatic 
hypotension with dizziness preceding the event which occurred 
shortly after rising from bed.  Cardiology did not advise event 
monitoring.  The patient was discharged with close PCP 
___.  She was advised to liberalize fluid intake and rise 
from seated position slowly, especially early in morning.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vivelle-Dot (estradiol) 0.0375 mg/24 hr transdermal twice 
weekly 
2. Levothyroxine Sodium 37.5 mcg PO DAILY 
3. proGESTerone micronized 100 mg by mouth DAILY 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 37.5 mcg PO DAILY  
2.  proGESTerone micronized 100 mg by mouth DAILY  
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Vivelle-Dot (estradiol) 0.0375 mg/24 hr transdermal twice 
weekly  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Orthostatic Hypotension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you had a syncopal 
episode.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given pain medication for your shoulder and head 
pain.
- The electrical activity of your heart was monitored.   

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please follow up on your appointment with your PCP ___.  

We wish you the best!  

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___